US05124330
p-Dibromobenzene (7.08 g, 30.0 mmole) was added to 50 ml of anhydrous tetrahydrofuran under nitrogen and the slurry was cooled to -78° C. A solution of n-butyllithium in hexane (1.67 M, 18.0 ml, 30 mmole) was added dropwise over 15 minutes. After stirring for ten minutes at -78° C., 3.8 ml (4.1 g, 30 mmole) of m-anisaldehyde was added dropwise over five minutes. After stirring for 15 minutes, the reaction was quenched with 10 ml of saturated aqueous ammonium chloride solution and was allowed to warm to room temperature. The reaction solution was diluted with 300 ml of diethyl ether and washed with three 50 ml portions of 1.0 M aqueous sodium bisulfite, followed by 50 ml of 1.0 M sodium hydroxide, 100 ml of water, and 100 ml of saturated sodium chloride. After drying over magnesium sulfate, the solvent was removed to give 8.5 g (97%) of crude (4-bromophenyl)(3-methoxyphenyl)-methanol.

reactant | p-Dibromobenzene | 30.0 mmole, 7.08 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 30 mmole, 1.67 M, 18.0 ml | CCCCCC | C6H14
reactant | m-anisaldehyde | 30 mmole, 3.8 ml, 4.1 g | C(C1=CC(=CC=C1)OC)=O | C8H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (4-bromophenyl)(3-methoxyphenyl)-methanol | 8.5 g, 97% | BrC1=CC=C(C=C1)C(O)C1=CC(=CC=C1)OC | C14H13BrO2
